US07129232B2
To a suspension of 2-(4,5-diamino-1H-pyrazol-1-yl)ethanol sulfate (5 g) in dichloromethane (50 ml) was added triethylamine (6.38 ml) at 0° C., and the mixture was stirred at 0° C. for 10 minutes. A mixture of acetic anhydride (2.16 ml) and formic acid (1.74 ml) was stirred at 40° C. for 30 minutes, cooled to 0° C. and added dropwise to the above solution at 0° C. The whole mixture was stirred at 0° C. for 2 hours. To the mixture was added brine, and the whole mixture was extracted with tetrahydrofuran. The extract was dried over magnesium sulfate and evaporated under reduced pressure to give crude [5-amino-1-(2-hydroxyethyl)-1H-pyrazol-4-yl]formamide, which was used in the next reaction without further purification.

reactant | 2-(4,5-diamino-1H-pyrazol-1-yl)ethanol sulfate | 5 g | S(=O)(=O)(O)OCCN1N=CC(=C1N)N | C5H10N4O4S
reactant | triethylamine | 6.38 ml | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 2.16 ml | C(C)(=O)OC(C)=O | C4H6O3
reactant | formic acid | 1.74 ml | C(=O)O | CH2O2
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
solvent | brine | [Cl-].[Na+].O
product | [5-amino-1-(2-hydroxyethyl)-1H-pyrazol-4-yl]formamide | NC1=C(C=NN1CCO)NC=O | C6H10N4O2
